US04508724
3-Ethoxy-3-[(2-ethoxyphenoxy)methyl]pyrrolidine Hydrochloride [1:1]
A solution of 10.4 g (0.029 mole) of 1-benzyl-3-ethoxy-3-[(2-ethoxyphenoxy)methyl]pyrrolidine in 100 ml of 200 ethanol was treated with palladium/carbon catalyst and shaken at 70° C. under a hydrogen atmosphere for 16 hours. No hydrogen was absorbed. The catalyst was removed by filtration, the filter cake washed with 50 ml of 200 ethanol, the filtrate transferred to a Parr reaction bottle and treated with 29 ml of 1.00N hydrochloric acid. Palladium/carbon catalyst was added and the reaction mixture was shaken under a hydrogen atmosphere at 70° C. for 16 hours. The catalyst was removed by filtration, and the filtrate evaporated under reduced pressure (9.0 g). The product hydrochloride crystallized on standing and was recrystallized twice from isopropanol-isopropyl ether: 5.7 g, (65%), m.p., 109°-112° C. The salt was dried under vacuum.

reactant | 1-benzyl-3-ethoxy-3-[(2-ethoxyphenoxy)methyl]pyrrolidine | 0.029 mole, 10.4 g | C(C1=CC=CC=C1)N1CC(CC1)(COC1=C(C=CC=C1)OCC)OCC | C22H29NO3
reactant | hydrochloric acid | 1.00N, 29 ml | Cl | ClH
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-3-[(2-ethoxyphenoxy)methyl]pyrrolidine Hydrochloride | Cl.C(C)OC1(CNCC1)COC1=C(C=CC=C1)OCC | InChI=1S/C15H23NO3.ClH/c1-3-17-13-7-5-6-8-14(13)18-12-15(19-4-2)9-10-16-11-15;/h5-8,16H,3-4,9-12H2,1-2H3;1H
